US08957070B2
7-[Isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide
A mixture of 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide (1.0 g), 2-iodopropane (574 mg), potassium carbonate (1.13 g) and N,N-dimethylacetamide (5 mL) was stirred at room temperature for 1 week. The reaction mixture was diluted with ethyl acetate and saturated brine. The organic layer was washed with aqueous sodium bicarbonate and saturated brine, dried over magnesium sulfate and filtrated. The filtrate was concentrated, subjected to NH silica gel column chromatography, and eluted with an ethyl acetate.hexane (2:1) mixture to give a solid. A mixture of this solid, oxalic acid dihydride (605 mg), methanol (15 mL) and water (15 mL) was stirred at 100° C. for 3.5 days. The reaction mixture was cooled to room temperature, and the obtained solid was collected by filtration, washed with water, a hexane. diisopropyl ether mixture and hexane in this order. The obtained solid was subjected to NH silica gel column chromatography, and eluted with an ethyl acetate.hexane mixture (2:1) to give the title compound (340 mg, yield 34%) as an amorphous solid.

reactant | 1-(methoxymethyl)-7-[(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 1.0 g | COCN1C(=CC2=CC=CC(=C12)NS(=O)(=O)C=1SC=CC1)C(=O)N | C15H15N3O4S2
reactant | 2-iodopropane | 574 mg | IC(C)C | C3H7I
reactant | potassium carbonate | 1.13 g | C([O-])([O-])=O.[K+].[K+]
reactant | oxalic acid dihydride | 605 mg | C(C=O)=O | C2H2O2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | brine | [Cl-].[Na+].O
solvent | hexane | CCCCCC | C6H14
solvent | water | 15 mL | O | H2O
solvent | methanol | 15 mL | CO | CH4O
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
product | 7-[Isopropyl(2-thienylsulfonyl)amino]-1H-indole-2-carboxamide | 340 mg, yield 34% | C(C)(C)N(C=1C=CC=C2C=C(NC12)C(=O)N)S(=O)(=O)C=1SC=CC1 | C16H17N3O3S2
